US09425415B2
In a first example, a Pt-001 complex, as described herein, was synthesized. Initially, 3-(pyridine-2-yloxy)phenol was synthesized. Under a nitrogen atmosphere, a pressure vessel was charged with a magnetic stir bar, resorcinol (110 mmol), 2-bromopyridine (100 mmol), 1-methylimidazole (5 mmol), and potassium carbonate (200 mmol). Pyridine (80 mL) was added and bubbled with nitrogen for 20 minutes before copper(I) iodide (10 mmol) was added and bubbled 10 minutes further. The vessel was sealed and heated to 140° C. while stirring. After 2 days, the solution was allowed to cool. The solids were then filtered off and rinsed with a 50:50 mixture of toluene and methanol. The filtrate was reduced by rotary evaporation and 150 ml of water containing 10 mL glacial acetic acid was added and shaken vigorously. The water was decanted off and 50 mL of DCM was added, forming an off white precipitate which was collected by vacuum filtration and dried with ether, resulting in the pure product 3-(pyridin-2-yloxy)phenol with a 55% yield.

reactant | resorcinol | 110 mmol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2-bromopyridine | 100 mmol | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-methylimidazole | 5 mmol | CN1C=NC=C1 | C4H6N2
reactant | potassium carbonate | 200 mmol | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 10 mmol | [Cu]I
solvent | Pyridine | 80 mL | N1=CC=CC=C1 | C5H5N
product | 3-(pyridin-2-yloxy)phenol | N1=C(C=CC=C1)OC=1C=C(C=CC1)O | C11H9NO2
